US08476288B2
(i) Methyl 2-(4-(cyanomethyl)benzyl)-3-oxobutanoate
A stirred mixture of methyl 3-hydroxy-2-methylenebutanoate (30.0 g, 0.23 mol), 2-(4-bromophenyl)acetonitrile (54.2 g, 0.28 mol), PdCl2[P(o-tol)3]2 (1.8 g, 2 mmol) and triethylamine (46.7 g, 0.46 mol) in acetonitrile (90 g) was heated at 70° C. for 6 hours under a N2 atmosphere. The mixture was cooled to 25° C., diluted with toluene (300 g) and 10% aq. acetic acid (360 g), and stirred for 10 minutes. The organic layer was separated, washed with water (360 g), and concentrated under reduced pressure to give the subtitle compound as a red oil, 67.3 g. This product was used in the next step without further purification.

reactant | methyl 3-hydroxy-2-methylenebutanoate | 0.23 mol, 30.0 g | OC(C(C(=O)OC)=C)C | C6H10O3
reactant | 2-(4-bromophenyl)acetonitrile | 0.28 mol, 54.2 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | triethylamine | 0.46 mol, 46.7 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 360 g | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 90 g | C(C)#N | C2H3N
solvent | toluene | 300 g | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(4-(cyanomethyl)benzyl)-3-oxobutanoate | C(#N)CC1=CC=C(CC(C(=O)OC)C(C)=O)C=C1 | C14H15NO3
